US07507734B2
4-(3-Iodo-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one
577 mg 4-(1H-Indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one is suspended in 30 mL acetone and 550 mg NIS is added. The reaction mixture is stirred for 3 hours at room temperature, the precipitated product isolated by filtration and washed with acetone. The material product is used without further purification

reactant | 4-(1H-Indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | 577 mg | N1C(=CC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C17H12N4O
reactant | NIS | 550 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-(3-Iodo-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | IC1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C17H11IN4O
